US04122086
cis-3-Azido-4-oxo-2-azetidinylmethyl iodide
A degassed solution of cis-3-azido-4-oxo-2-azetidinylmethyl tosylate (2.36 g) in acetone (80 ml) was refluxed with NaI (5.85 g) overnight. Reaction was cooled and the acetone was removed in vacuo. The reaction mixture was partitioned between ethyl acetate and aqueous sodium thiosulfate solution. Phases were separated and the organic layer was extracted with thiosulfate solution. The combined aqueous extracts were extracted with ethyl acetate. The combined ethyl acetate layers were washed with brine, dried and evaporated to give an off-white solid. The product was recrystallized from ethyl acetate-hexane, melting point 130°-2° (dec.), 1.5 g (75%).

reactant | cis-3-azido-4-oxo-2-azetidinylmethyl tosylate | 2.36 g | S(=O)(=O)(OC[C@@H]1NC([C@@H]1N=[N+]=[N-])=O)C1=CC=C(C)C=C1 | C11H12N4O4S
reactant | NaI | 5.85 g | [Na+].[I-]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | cis-3-Azido-4-oxo-2-azetidinylmethyl iodide | N(=[N+]=[N-])[C@@H]1[C@@H](NC1=O)CI | C4H5IN4O
